US06927221B2
3-[1-(3-Mesityl-2-methylanilino)ethylidene]tetrahydro-2-furanone
A solution of 3-mesityl-2-methylaniline (5.0 g, 22 mmol) and α-acetyl-γ-butyrolactone (14.2 g, 0.11 mol) in ethanol (100 mL) was heated at reflux for three days. The mixture was evaporated, and the residue was purified by silica gel column chromatography (10% ethyl acetate/hexane), to give the title compound (7.08 g) as white crystals.

reactant | 3-mesityl-2-methylaniline | 22 mmol, 5.0 g | C1(=C(C(=CC(=C1)C)C)C=1C(=C(N)C=CC1)C)C | C16H19N
reactant | α-acetyl-γ-butyrolactone | 0.11 mol, 14.2 g | C(C)(=O)C1C(=O)OCC1 | C6H8O3
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 3-[1-(3-Mesityl-2-methylanilino)ethylidene]tetrahydro-2-furanone | 7.08 g | C1(=C(C(=CC(=C1)C)C)C=1C(=C(NC(C)=C2C(OCC2)=O)C=CC1)C)C | C22H25NO2
